US06025370
In 50 ml of 42% borofluoric acid was suspended 5.00 g of 5-bromo-2,3-dimethylaniline, followed by adding dropwise thereto 3.9 ml of an aqueous solution of 1.80 g of sodium nitrite under ice-cooling, and the resulting mixture was stirred at the same temperature for 1 hour. The crystals precipitated were collected by filtration, dried under reduced pressure, and then heated at 60° C. on an oil bath. At the time when a theoretical amount of nitrogen was produced, the reaction mixture was cooled to room temperature and then added to a mixed solvent of 50 ml of ethyl acetate and 50 ml of water, and the organic layer was separated. The organic layer obtained was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. The resulting residue was purified by a column chromatography (eluent; n-hexane:ethyl acetate=30:1) to obtain 2.90 g of 5-bromo-2,3-dimethylfluorobenzene as a colorless oil.

reactant | 5-bromo-2,3-dimethylaniline | 5.00 g | BrC=1C=C(C(=C(N)C1)C)C | C8H10BrN
reactant | sodium nitrite | 1.80 g | N(=O)[O-].[Na+]
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 50 ml | O | H2O
reactant | borofluoric acid | 50 ml | [H+].[B-](F)(F)(F)F
product | 5-bromo-2,3-dimethylfluorobenzene | 2.90 g | BrC=1C=C(C(=C(C1)F)C)C | C8H8BrF
